US04206225
To a 0° C. solution of 2-(2,5-dimethoxyphenyl)-2-hydroxypropyl 2-phenylethyl ether (550 mg., 1.74 mM) in pyridine (2 ml.) is added dropwise phosphorous oxychloride (477 ml., 5.22 mM). The reaction is allowed to warm to 20° C. over a 1.5 hour period. It is then stirred for 1.5 hours at 20° C. and then added to ether (150 ml.) and 15% sodium carbonate (100 ml.). The organic phase is separated and washed with 15% sodium carbonate (3×50 ml.), dried over magnesium sulfate and evaporated to an oil. The oil is dissolved in absolute ethanol (15 ml.), 10% palladium-on-carbon (100 mg.) added and the mixture stirred under one atmosphere of hydrogen gas. When hydrogen uptake ceases, the reaction is filtered through diatomaceous earth and the filtrate evaporated to an oil. The oil is purified via preparative layer chromatography on silica gel plates, eluting with 6:1 pentane: ether to yield 2-(2,5-dimethoxyphenyl)propyl 2-phenylethyl ether.

reactant | 2-(2,5-dimethoxyphenyl)-2-hydroxypropyl 2-phenylethyl ether | 1.74 mM, 550 mg | C1(=CC=CC=C1)CCOCC(C)(O)C1=C(C=CC(=C1)OC)OC | C19H24O4
reactant | phosphorous oxychloride | 5.22 mM, 477 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ether | 150 ml | CCOCC | C4H10O
reactant | sodium carbonate | 100 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2,5-dimethoxyphenyl)propyl 2-phenylethyl ether | C1(=CC=CC=C1)CCOCC(C)C1=C(C=CC(=C1)OC)OC | C19H24O3
